US06872803B1
A 41 mg portion of Fmoc-Asp(Ot-Bu)-OH was dissolved in 1, ml of methylene chloride, and 12 mg of HONSu and 21 mg of DCC were added thereto at 0° C. and stirred at 0° C. for 30 minutes. Then, 1 ml of a methylene chloride solution containing 33 mg of H-Trp-OBzl hydrochloride and 14 μl of triethylamine were added thereto and stirred at 0° C. for 3 hours. The insoluble substances were removed by filtration and washed with cold methylene chloride, and the filtrate was collected. The solvent was removed from the filtrate by distillation under reduced pressure, and the residue was purified by silica gel column chromatography (50 g of Wakogel C-200, eluted with chloroform/methanol=25/1) to obtain 67 mg of Fmoc-Asp(Ot-Bu)-Trp-OBzl as a white powder.

reactant | Fmoc-Asp(Ot-Bu)-OH | N([C@@H](CC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C23H25NO6
reactant | DCC | 21 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | H-Trp-OBzl hydrochloride | 33 mg | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1.Cl
reactant | triethylamine | 14 μl | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | Fmoc-Asp(Ot-Bu)-Trp-OBzl | 67 mg | N([C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C41H41N3O7
